US07935674B2
4-Chloro-3-(4-(methylthio)phenylmethyl)-1-(β-D-gluco-pyranosyl)indole
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 1-(3) and 4-(methylthio)benzoyl chloride were treated in a manner similar to Example 3 to give the titled compound as a colorless powder. APCI-Mass m/Z 450/452 (M+H). 1H-NMR (DMSO-d6) δ 2.43 (s, 3H), 3.24 (td, J=9.0, 5.6 Hz, 1H), 3.39 (td, J=8.7, 5.2 Hz, 1H), 3.43-3.48 (m, 2H), 3.62-3.69 (m, 2H), 4.23 (s, 2H), 4.53 (t, J=5.4 Hz, 1H), 5.09 (d, J=5.1 Hz, 1H), 5.16 (d, J=5.0 Hz, 1H), 5.21 (d, J=5.6 Hz, 1H), 5.40 (d, J=9.1 Hz, 1H), 7.02 (d, J=7.5 Hz, 1H), 7.10 (t, J=7.9 Hz, 1H), 7.17 (s, 4H), 7.27 (s, 1H), 7.54 (d, J=8.2 Hz, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 4-(methylthio)benzoyl chloride | CSC1=CC=C(C(=O)Cl)C=C1 | C8H7ClOS
product | 4-Chloro-3-(4-(methylthio)phenylmethyl)-1-(β-D-gluco-pyranosyl)indole | ClC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)SC | C22H24ClNO5S
